US07625887B2
(2-chloro-4-phenylpyridin-3-yl)methanol
To a solution of 2-chloro-4-phenylnicotinic acid (22.4 g) in tetrahydrofuran (200 ml) was added thionyl chloride (21 ml), and the mixture was heated under reflux for 3 hrs. The solvent was evaporated under reduced pressure, and the precipitated solid was collected by filtration and washed with hexane. The obtained powdery solid was dissolved in tetrahydrofuran (200 ml), and lithium aluminum hydride (4.5 g) was added by small portions while cooling in a dry ice-acetone bath. The mixture was stirred under cooling for 5 min. and water was added to quench the reaction. The precipitated solid was filtered off, and the filtrate was concentrated and extracted with ethyl acetate. The organic layer was washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (15.1 g) as a colorless oil.

reactant | 2-chloro-4-phenylnicotinic acid | 22.4 g | ClC1=C(C(=O)O)C(=CC=N1)C1=CC=CC=C1 | C12H8ClNO2
reactant | thionyl chloride | 21 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (2-chloro-4-phenylpyridin-3-yl)methanol | 15.1 g | ClC1=NC=CC(=C1CO)C1=CC=CC=C1 | C12H10ClNO
